US08044052B2
Synthesis of 4-(4-methyl-3-(5-(trifluoromethyl)pyridin-2-yloxy)benzylidene)-N-(pyridin-3-yl)piperidine-1-carboxamide
To a solution of 2-(2-methyl-5-(piperidin-4-ylidenemethyl)phenoxy)-5-(trifluoromethyl)pyridine (440 mg, 0.001 mol) in DMSO (5 mL) was added phenyl pyridin-3-ylcarbamate (278 mg, 0.001 mol) followed by triethylamine (0.4 mL, 0.003 mol). The resulting mixture was stirred at RT for 12 h. The reaction mixture was diluted with water and extracted with EtOAc. The organic extract was dried over Na2SO4 and concentrated under reduced pressure. The residue was purified by column chromatography (30% acetone-70% hexane) to give the pure title compound (0.310 g, 50%). 1H NMR (500 MHz, CDCl3): δ 8.45-8.42 (m, 2H), 8.26 (d, J=4.5 Hz, 1H), 8.01 (d, J=7 Hz, 1H), 7.91 (d, J=9 Hz, 1H), 7.25-7.22 (m, 1H), 7.05-6.99 (m, 2H), 6.91 (s, 1H), 6.63 (s, 1H), 6.37 (s, 1H), 3.62 (t, J=5.5 Hz, 2H), 3.53 (t, J=11.5 Hz, 2H), 2.63-2.58 (m, 2H), 2.46 (t, J=5.5 Hz, 2H), 2.14 (s, 3H); 13C NMR (125 MHz, CDCl3): δ 165.61, 154.45, 151.24, 145.65, 144.06, 141.14, 137.34, 136.77, 136.49, 136.05, 131.34, 128.95, 127.36, 126.42, 124.45, 123.59, 122.18, 110.76, 45.71, 44.60, 35.69, 29.14, 16.09; m/z (469.5, M+ H+); HPLC: 98.8%.

reactant | 2-(2-methyl-5-(piperidin-4-ylidenemethyl)phenoxy)-5-(trifluoromethyl)pyridine | 0.001 mol, 440 mg | CC1=C(OC2=NC=C(C=C2)C(F)(F)F)C=C(C=C1)C=C1CCNCC1 | C19H19F3N2O
reactant | phenyl pyridin-3-ylcarbamate | 0.001 mol, 278 mg | N1=CC(=CC=C1)NC(OC1=CC=CC=C1)=O | C12H10N2O2
reactant | triethylamine | 0.003 mol, 0.4 mL | C(C)N(CC)CC | C6H15N
solvent | DMSO | 5 mL | CS(=O)C | C2H6OS
solvent | water | O | H2O
product | 4-(4-methyl-3-(5-(trifluoromethyl)pyridin-2-yloxy)benzylidene)-N-(pyridin-3-yl)piperidine-1-carboxamide | 0.310 g, 50% | CC1=C(C=C(C=C2CCN(CC2)C(=O)NC=2C=NC=CC2)C=C1)OC1=NC=C(C=C1)C(F)(F)F | C25H23F3N4O2
